US05547949
Preparation of 4,6-dichloro-2-(2,2,6,6-tetramethyl-1-piperidinyl)pyrimidine
A mixture containing 25 g (136.3 mmoles) of 2,4,6-trichloropyrimidine and 46.3 ml (272.6 mmoles) of 2,2,6,6,-tetramethylpiperidine is boiled under reflux for 50 hours, then the reaction mixture is cooled down and suspended in 250 ml of hexane. The insoluble part is filtered off, the filtrate (mother liquor) is evaporated and the residue is distributed between 300 ml of chloroform and 50 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 100 ml of water each, dried and evaporated. The residue is purified by chromatography on a silica gel column by using hexane as eluent. After recrystallization from hexane the title compound is obtained in a yield of 8.04 g (20.47%), m.p.:89°-900° C.

reactant | 2,4,6-trichloropyrimidine | 136.3 mmoles, 25 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 2,2,6,6,-tetramethylpiperidine | 272.6 mmoles, 46.3 ml | CC1(NC(CCC1)(C)C)C | C9H19N
solvent | hexane | 250 ml | CCCCCC | C6H14
product | 4,6-dichloro-2-(2,2,6,6-tetramethyl-1-piperidinyl)pyrimidine | ClC1=NC(=NC(=C1)Cl)N1C(CCCC1(C)C)(C)C | C13H19Cl2N3
